data/oMe_Silver.jsonl
{"reaction_id": "NR-242_1-C(C)(C)C_2-C_3-C(C)(C)C","level": "hard","name": "Stobbe Condensation","reactants_smiles": ["C(=O)(C(C)(C)C)(C)","C(=O)(OC(C)(C)C)CCC(=O)(OC(C)(C)C)"],"products_smiles": ["C(=C(C(=O)OC(C)(C)C)CC(=O)O)(C(C)(C)C)(C)"],"conditions": "1. Base (e.g. NaOMe), 2. H3O+","mechanism_step_nums": 6,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C([O-])(C(C)(C)C)(C)C(C(=O)OC(C)(C)C)CC(=O)OC(C)(C)C","step_weight": 0,"rationale": "Base deprotonates the α-position of C(C)(C)C–C ketone, generating an enolate stabilized by resonance with the carbonyl, which then attacks the electrophilic ester carbonyl of the diester."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1(C(C)(C)C)(C)C(C(=O)OC(C)(C)C)CC([O-])(OC(C)(C)C)O1","step_weight": 0,"rationale": "Intramolecular nucleophilic attack occurs as the alkoxide oxygen attacks another ester carbonyl, favored by proximity and formation of a five-membered cyclic intermediate."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C1(C(C)(C)C)(C)C(C(=O)OC(C)(C)C)CC(=O)O1","step_weight": 0,"rationale": "The alkoxide eliminates the alkoxy group from the ester, as the leaving group is stabilized by resonance with the adjacent carbonyl, forming a lactone."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1(C(C)(C)C)(C)[C-](C(=O)OC(C)(C)C)CC(=O)O1","step_weight": 0,"rationale": "Base abstracts an acidic α-proton adjacent to the lactone carbonyl, generating an enolate stabilized by conjugation with the carbonyl group."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=C(C(=O)OC(C)(C)C)CC(=O)[O-])(C(C)(C)C)(C)","step_weight": 0,"rationale": "The enolate facilitates elimination of the alkoxide from the lactone, opening the ring and forming a conjugated α,β-unsaturated diester anion, driven by extended conjugation."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=C(C(=O)OC(C)(C)C)CC(=O)O)(C(C)(C)C)(C)","step_weight": 0,"rationale": "Acidic work-up protonates the carboxylate anion, yielding the neutral α,β-unsaturated diacid product."}],"description": "Under basic conditions, the Stobbe condensation proceeds via nucleophilic attack of an enolate on a diester, forming a cyclic intermediate. Sequential eliminations and proton transfers lead to an α,β-unsaturated diacid framework after acid work-up, driven by resonance stabilization and relief of ring strain."}
{"reaction_id": "NR-210_1-C2CCCCC2_2-CC=C(C)C_3-C(C)(C)C","level": "medium","name": "Parikh-Doering Oxidation","reactants_smiles": ["O=S(C)(C2CCCCC2)","O(C(CC=C(C)C)(C(C)(C)C))"],"products_smiles": ["O=C(CC=C(C)C)C(C)(C)C"],"conditions": "Et3N,SO3,Py","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1=CC=[N+](C=C1)[S](=O)(=O)[O-]","step_weight": 0,"rationale": "SO3 coordinates to pyridine due to pyridine’s nucleophilicity and the strong electrophilicity of sulfur, forming a reactive sulfonyl–pyridinium complex."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C[S+](C2CCCCC2)O[S](=O)(=O)[O-]","step_weight": 0,"rationale": "The alcohol oxygen attacks the activated sulfur center, as sulfur is highly electrophilic and pyridine is a good leaving group under these conditions."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C([S](C2CCCCC2)(O([S](=O)(=O)[O-]))O(C(CC=C(C)C)(C(C)(C)C)))","step_weight": 0,"rationale": "The alkoxide generated from the alcohol displaces a leaving group on sulfur, forming an alkoxysulfonium species stabilized by the electron-withdrawing sulfonyl group."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[S](C2CCCCC2)(=C)O(C(CC=C(C)C)(C(C)(C)C))","step_weight": 0,"rationale": "Base-induced elimination occurs because the α-proton is acidic due to adjacent positively charged sulfur, generating a sulfur ylide intermediate."},{"step": 5,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "O=C(CC=C(C)C)C(C)(C)C","step_weight": 0,"rationale": "The sulfur ylide undergoes a [2,3]-sigmatropic rearrangement, driven by formation of a stable carbonyl and relief of charge separation."}],"description": "In the Parikh–Doering oxidation, the alcohol is oxidized to a carbonyl compound under mild, non-aqueous conditions using SO3–pyridine and triethylamine. The sequence involves activation of the oxidant, formation of an alkoxysulfonium intermediate, elimination to a sulfur ylide, and rearrangement to the carbonyl product."}
